US07759350B2
Synthesis of N-[(1E)-2-Cyano-3-[(4-methylphenyl)amino]-1-(methylthio)-3-oxoprop-1-en-1-yl]-4-(methylthio)benzamide
To a suspension of 5-Cyano-1-(4-methylphenyl)-4-(methylthio)-2-[4-(methylthio)phenyl]-6-oxo-1,6-dihydropyrimidine (2.5 g, 6.59 mmol) in ethanol (30 ml) was added anhydrous potassium carbonate (1.3 g, 9.4 mmol) under continuos stirring, and at an ambient temperature. The suspension was heated slowly to 60° C. under stirring for 5 hours. Subsequently the reaction mixture was filtered, and washed with water then with ethanol and dried under vacuum to yield the title compound (2.12 g, 80.8%, m.p.: 173-175° C., purity 91.6% by HPLC). 1H-NMR (CDCl3)δ (ppm): 2.34 (s, 3H), 2.53 (s, 3H), 2.69 (s, 3H), 7.16-7.18 (d, 2H), 7.26-7.37 (m, 4H), 7.92-7.94 (d, 2H), 14.0 (s, 1H, D2O exchangeable). IR (KBr) cm−1: 3311, 2201, 1702 (—C═O). MS m/z: 398.5 (M++1).

reactant | 5-Cyano-1-(4-methylphenyl)-4-(methylthio)-2-[4-(methylthio)phenyl]-6-oxo-1,6-dihydropyrimidine | 6.59 mmol, 2.5 g | C(#N)C1=C(N=C(N(C1=O)C1=CC=C(C=C1)C)C1=CC=C(C=C1)SC)SC | C20H17N3OS2
reactant | potassium carbonate | 9.4 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N-[(1E)-2-Cyano-3-[(4-methylphenyl)amino]-1-(methylthio)-3-oxoprop-1-en-1-yl]-4-(methylthio)benzamide | 2.12 g, 80.8% | C(#N)\C(=C(/SC)\NC(C1=CC=C(C=C1)SC)=O)\C(=O)NC1=CC=C(C=C1)C | C20H19N3O2S2
